US08252781B2
Preparation of 1-(biphenyl-2-ylmethyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 2-phenylbenzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a colorless oil.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 2-phenylbenzyl bromide | C1(=CC=CC=C1)C1=C(CBr)C=CC=C1 | C13H11Br
product | 1-(biphenyl-2-ylmethyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | C1(=C(C=CC=C1)CN1N(C(C1(C)C)=O)C1C2CC3CC(CC1C3)C2)C2=CC=CC=C2 | C27H32N2O
